US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({6-[(3-fluorophenyl)oxy]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D56)
The title compound was prepared from 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D54) and 3-fluorophenol in a similar manner to that described for D55 in Description 55, yielding the title compound as a pale yellow oil (0.057 g). MS (ES): MH+ 535.3.

reactant | 1,1-dimethylethyl (2S)-4-({4-[[(6-chloro-3-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | ClC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31ClN4O3
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 1,1-Dimethylethyl (2S)-4-({4-[({6-[(3-fluorophenyl)oxy]-3-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.057 g | FC=1C=C(C=CC1)OC1=CC=C(C=N1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H35FN4O4
